US07612114B2
(2-Hydroxy-4-methoxyphenyl) (3-methoxyphenyl)methanone
Synthesized from resorcinol and 3-methoxybenzoyl chloride according to an analogous synthetic method to Preparation Example 66, (2,4-dihydroxyphenyl)(3-methoxyphenyl)methanone (14.7 g) and methyl iodide (9.4 g) were used according to an analogous synthetic method to Example 383 to provide the title compound (10.3 g).

reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 3-methoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1 | C8H7ClO2
reactant | (2,4-dihydroxyphenyl)(3-methoxyphenyl)methanone | 14.7 g | OC1=C(C=CC(=C1)O)C(=O)C1=CC(=CC=C1)OC | C14H12O4
reactant | methyl iodide | 9.4 g | CI | CH3I
product | (2-Hydroxy-4-methoxyphenyl) (3-methoxyphenyl)methanone | 10.3 g | OC1=C(C=CC(=C1)OC)C(=O)C1=CC(=CC=C1)OC | C15H14O4
